US07557213B2
Experimental conditions analogous to those described for Step 6 of Example 60 were used with 85 mg (0.204 mmol) of 1-(6-Bromo-pyridin-2-ylmethyl)-7-methyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid methoxy-methyl-amide and 0.896 mL 0.448 mL, 0.5 M in THF) of 4-methoxy-3-methylphenylmagnesium bromide in 1 mL of THF. The crude product was purified by flash column chromatography using 20-100% ethyl acetate in hexane and further purified on the reverse phase HPLC with a C18 column, gradient of 20-70% acetonitrile—0.1% TFA to afford 27.9 mg of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(4-methoxy-3-methyl-benzoyl)-7-methyl-1H-[1,8]naphthyridin-4-one as a white solid. LC-MSD, m/z for C24H20BrN3O3 [M+H]: 478.07 LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 minutes: 2.6 min.

reactant | 1-(6-Bromo-pyridin-2-ylmethyl)-7-methyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid methoxy-methyl-amide | 0.204 mmol, 85 mg | CON(C(=O)C1=CN(C2=NC(=CC=C2C1=O)C)CC1=NC(=CC=C1)Br)C | C18H17BrN4O3
reactant | 4-methoxy-3-methylphenylmagnesium bromide | COC1=C(C=C(C=C1)[Mg]Br)C
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(4-methoxy-3-methyl-benzoyl)-7-methyl-1H-[1,8]naphthyridin-4-one | 27.9 mg | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=C(N=C12)C)=O)C(C1=CC(=C(C=C1)OC)C)=O | C24H20BrN3O3
